US05464865
2,6,6-Trimethyl-1-cyclohexene-1-acetaldehyde is reacted with methoxymethyl triphenylphosphonium chloride in the presence of potassium tert-butoxide, followed by conversion to the dimethyl acetal and subsequent hydrolysis, as described in Example 1 above, to provide 3-(2,6,6-trimethyl-1-cyclohexen-1yl)propanal (80% yield) as a colorless oil after distillation in vacuo. This material (6.8 g) is reacted with triethyl 2-phosphonopropionate (10.6 ml) by the method of example 14(B) above, to provide 6.58 g (2E)-2-methyl-5-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-pentenoic acid ethyl ester as a colorless oil after chromatography. This ester is reduced with diisobutylaluminum hydride by the method described in example 14(B) above, to provide (2E)-2-methyl-5-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-pentenol as a colorless oil (93%) after chromatography.

reactant | 2,6,6-Trimethyl-1-cyclohexene-1-acetaldehyde | CC1=C(C(CCC1)(C)C)CC=O | C11H18O
reactant | methoxymethyl triphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
product | 3-(2,6,6-trimethyl-1-cyclohexen-1yl)propanal | 80% yield | CC1=C(C(CCC1)(C)C)CCC=O | C12H20O
